US04882316
A solution of 0.5 g of benzyl mercaptan in 10 ml of dry dimethylformamide was treated with 60 mg of a 80% dispersion of sodium hydride in mineral oil. After the effervescence had ceased a solution of 1.64 g of 2'-deoxy-5-ethyl-5'-O-(p-toluenesulphonyl)uridine in 20 ml of dry dimethylformamide was added. The mixture was stirred and heated at 100° C. under a nitrogen gas atmosphere. The course of the reaction was followed by thin layer chromatography. After 4 hours the mixture was evaporated to give an oily residue. This was purified by flash column chromatography on silica gel using methanol/dichloromethane (1:9) for the elution. The fractions containing the product were combined and evaporated to yield an oil which solidified and was recrystallized from diethyl ether to give 1.46 g of 5'-benzylthio-2',5'-dideoxy-5-ethyluridine, mp 149°-151° C.

reactant | benzyl mercaptan | 0.5 g | C(C1=CC=CC=C1)S | C7H8S
reactant | sodium hydride | [H-].[Na+]
reactant | 2'-deoxy-5-ethyl-5'-O-(p-toluenesulphonyl)uridine | 1.64 g | C(C)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](COS(=O)(=O)C3=CC=C(C=C3)C)O2)C1)=O)=O | C18H22N2O7S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5'-benzylthio-2',5'-dideoxy-5-ethyluridine | 1.46 g | C(C1=CC=CC=C1)SC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)O | C18H22N2O4S
